US06329380B1
Step B: 2-[(1-(N-Phenylcarbamoyl)pyrrolidin-3-yl)methylamino]-4-[benzimidazol-1-yl]pyrimidine
To a solution of 21 mg of 2-[(pyrrolidin-3-yl)-methylamino]-4-[benzimidazol-1-yl]pyrimidine in 1 mL of CH2Cl2 was added 11 mg of phenyl isocyanate. The mixture was stirred at room temperature for 4 h, then concentrated. The residue was purified by flash chromatography, eluting with a gradient system of 1:1 hexanes-acetone to 1:2 hexanes-acetone, to yield 24 mg of the title compound as an off-white foam. 1H NMR (500 MH, CDCl3): δ 8.63 (s, 1H), 8.41 (d, J=4.8, 1H), 8.18 (d, J=7.6 Hz, 1H), 7.87 (dd, J=1.2, 6.9 Hz, 1H), 7.36-7.46 (m, 3H), 7.25-7.32 (m, 2H), 7.03 (dt, J=1.2, 7.3 Hz, 1H), 6.85 (d, J=5.5 Hz, 1H), 6.18 (s, 1H), 5.70 (br s, 1H), 3.46-3.76 (m, 5H), 3.36 (dd, J=6.6, 9.8 Hz, 1H), 2.70-2.81 (m, 1H), 2.17-2.26 (m, 1H), 1.70-1.92 (m, 2H).

reactant | 2-[(pyrrolidin-3-yl)-methylamino]-4-[benzimidazol-1-yl]pyrimidine | 21 mg | N1CC(CC1)N(C1=NC=CC(=N1)N1C=NC2=C1C=CC=C2)C | C16H18N6
reactant | phenyl isocyanate | 11 mg | C1(=CC=CC=C1)N=C=O | C7H5NO
reactant | CH2Cl2 | 1 mL | C(Cl)Cl | CH2Cl2
product | 2-[(1-(N-Phenylcarbamoyl)pyrrolidin-3-yl)methylamino]-4-[benzimidazol-1-yl]pyrimidine | 24 mg | C1(=CC=CC=C1)NC(=O)N1CC(CC1)CNC1=NC=CC(=N1)N1C=NC2=C1C=CC=C2 | C23H23N7O
